Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
contrast dye
 
Attending: ___.
 
Chief Complaint:
left pelvic sidewall mass and persistent left inguinal 
lymphadenectomy
 
Major Surgical or Invasive Procedure:
L pelvic lymphadenectomy, L femoral/inguinal lymphadenectomy

 
History of Present Illness:
___
is an ___ woman living alone in ___ and widowed for ___
years who is originally from ___ and who is a retired 
___.  She is extremely active and continues
to drive and work in her yard.  She was accompanied by her
___, a ___.

___ has a complex history of melanoma as described here.
In early ___ she underwent biopsy of a left plantar 
lesion
showing a 1.25 mm thick ulcerated primary with all margins
involved by tumor.  On ___ she underwent wide excision
with concurrent sentinel lymph node biopsy by Dr. ___ at ___.  I reviewed his operative note
extensively.  She apparently had undergone a torso CT scan only
two days before surgery, on ___, which I am awaiting
the hardcopy images for as I was unable to view it today. 
According to the report, the scan showed an absent uterus with a
5.1 cm well-circumscribed nonenhancing low-attenuation lesion
within the left pelvis which was stated to represent either an
ovarian cyst, lymphocele, or potential lymph node.  A head CT on
the same day was normal aside from a known, stable menigioma.

On ___ wide excision was performed of the left plantar
forefoot with a transverse primary closure.  Her pathology 
showed
a 4.15 mm residual ulcerated melanoma of the acral lentiginous
type with 24 mitoses per millimeter squared and melanoma in situ
at the margins.  Satellitosis, lymphovascular invasion, and
perineural invasion were all present.  The operative note
describes injecting blue dye at the level of the knee for her
lymphatic mapping, but no radioactivity was used and a specific
injection at the forefoot was not performed.  No clearly blue
stained node was described at the time of a random exploration 
of
the femoral triangle but one excised lymph node showed a single
HMB-45 positive cell.  According to the note, only on the day of
surgery was it recognized that she had the pelvic finding on the
CT scan, and on that basis a left lower quadrant incision was
made with transection of the oblique musculature and entry into
the left retroperitoneum.  The note then describes encountering 
a
"blue cystic structure" which was "biopsied".  The exact
anatomical location was unclear to me.  Visualization of the
iliac vessels or of any defined pelvic structure was not
described.  A cytology specimen was stated to be consistent with
"cyst debris".  Her pathology showed a benign mesothelial lined
cyst wall with adjacent normal ovarian cortex which was WT1 and
ER positive.  The pathology was confirmed by the excellent ___ pathologist, Dr. ___.

After the operation she apparently developed a pelvic abscess
requiring image guided percutaneous drainage and prolonged
antibiotics.  I do not know what organism was recovered.  A CT
scan of the abdomen was obtained on ___ which
supposedly showed a "hematoma" at the biopsy site.

Her care was then transferred to Dr. ___ at ___ who proceeded with re-excision of the foot on ___ with no pathology found.  By ___ she developed
___ plantar satellite metastases and was initiated on
pembrolizumab on ___, with autoimmune hypothyroidism
resulting.  

By ___ an FDG-PET/CT scan showed multiple FDG avid
inguinal-femoral lymph nodes.  She was then referred to our
program for TVEC injections (an attenuated herpes simplex virus
which expresses GM-CSF).  Since that time she has had repeated
injections of the foot and of lymph nodes in the femoral 
triangle
by Ms. ___, with continuation of pembrolizumab.  She fell in
___ fracturing her hip with cellulitis, which then resolved. 
Today she will receive cycle 14 of the antibody.

___ has had several PET scans, the most recent performed 
here
on ___.  Within our computer system there are two
outside PET/CT scans from ___ and ___. 
The ___ study was uninterpretable by me today with
numerous false sites of FDG avidity, presumably due to technical
reasons.  I reviewed the ___ study and she had a small
focus of FDG avidity within the left pelvis with no clear-cut
mass, and a prominent focus in the superficial left
inguinal-femoral region.  The most recent study from ___
shows a 4.4 cm left pelvic mass associated with the left 
external
iliac vessels which is FDG avid with an SUV of 14.  With
reference to the ___ PET scan it was 3.1 cm earlier.  She
has two FDG avid foci within the left inguinal-femoral region 
one
measuring 1.3 x 1.9 cm and the other 0.9 x 0.9 cm which are
stated to be "stable".  I believe that both of them have been
injected with TVEC in the past.

I would also note that her original tumor was found to be c-kit
positive but I believe it is negative for the BRAF mutation.
 
Past Medical History:
___: ___ has a complex past medical history.  She has
hypothyroidism secondary to the pembrolizumab, polymyalgia
rheumatica with temporal arteritis requiring chronic steroids,
gout, osteoporosis, a stable meningioma, and severe hardness of
hearing.

PSH: The surgical history includes what has been described for 
the melanoma.  In year ___ she underwent resection of a "benign
cardiac tumor", presumably an atrial myxoma, at the ___.  In ___ she underwent ORIF of her left
hip fracture at an outside institution.  In ___ she
underwent a "colovaginal fistula repair" at ___ via a midline
incision.  The details were obscure.  She underwent a TAH ___
years ago and does not know if her ovaries were left in, 
although
presumably from what I have described earlier, they were.  She
has also undergone appendectomy, cholecystectomy, and
tonsillectomy.
 
Social History:
___
Family History:
The family history is significant for her sister who died from 
lung cancer.  Another sister had breast cancer at an uncertain 
age.  A third sister has nonmelanoma skin cancers.  There are no 
family members with melanoma or other cancers.  She has 3 sons 
and 1 daughter who are well.
 
Physical Exam:
General: AxOx3. Following commands, NAD, well appearing
HEENT: Eyes anicteric. PEERLA. EOMI. Mucus membranes appear 
moist
Chest: Symmetric. CTAB. No crackles. No DTP
Cards: RRR. 
Abdomen: Nondistended, appropriately tender, no R/G. 
Extremities: L groin incision appears CDI with no erythema or
purulence (tegaderm dressing in place). JPx2 with 
serosanguineous
output. Strong bl femoral pulses. Distal pulses intact
Neuro: Moving all extremities equally. Sensation grossly intact.
___ strength UE and ___.
 
Pertinent Results:
___ 05:53AM BLOOD WBC-8.8 RBC-3.02* Hgb-8.8* Hct-28.5* 
MCV-94 MCH-29.1 MCHC-30.9* RDW-14.2 RDWSD-49.3* Plt ___
___ 05:53AM BLOOD Glucose-65* UreaN-19 Creat-0.8 Na-138 
K-4.6 Cl-97 HCO3-27 AnGap-14
___ 05:53AM BLOOD Calcium-8.6 Phos-2.7 Mg-1.8
 
Brief Hospital Course:
Ms. ___ presented to ___ holding at ___ on ___ for 
a L pelvic lymphadenectomy, L femoral/inguinal lymphadenectomy. 
She tolerated the procedure well without complications (Please 
see operative note for further details). After a brief and 
uneventful stay in the PACU, the patient was transferred to the 
floor for further post-operative management.

Neuro: Pain was well controlled on Tylenol and tramadol.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. Had good pulmonary 
toileting, as early ambulation and incentive spirometry were 
encouraged throughout hospitalization.
GI: The patient was initially kept NPO after the procedure. The 
patient was later advanced to and tolerated a regular diet at 
time of discharge. Patient's intake and output were closely 
monitored
GU: The patient had a Foley catheter that was removed prior to 
discharge. Urine output was monitored as indicated. At time of 
discharge, the patient was voiding without difficulty.
ID: The patient was closely monitored for signs and symptoms of 
infection and fever.
Heme: The patient had blood levels checked daily during their 
hospital course to monitor for signs of bleeding. The patient 
received subcutaneous heparin and ___ dyne boots were used 
during this stay, she was encouraged to get up and ambulate as 
early as possible.  

On POD4, the patient was discharged to rehab. At discharge, she 
was tolerating a regular diet, passing flatus, voiding, and 
ambulating independently. She will follow-up in the clinic in 
___ weeks. This information was communicated to the patient 
directly prior to discharge.
 
Medications on Admission:
1. levothyroxine 75 mcg daily
2. metoprolol succinate ER 25 mg BID
3. prednisone 10 mg daily
 
Discharge Medications:
1. levothyroxine 75 mcg daily
2. metoprolol succinate ER 25 mg BID
3. prednisone 10 mg daily
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
left pelvic sidewall mass and persistent left inguinal 
lymphadenectomy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You underwent surgery to remove lymph nodes in your pelvis and 
inguinal region. You have been recovering well. The following is 
a summary of discharge instructions. 

MEDICATIONS 
1. Please resume all home medications, unless specifically 
advised not to take a particular medication. Please take any ___ 
medications as prescribed.
2. Please take all pain medications as prescribed, as needed. 
You may not drive or operate heavy machinery while taking 
narcotic pain medications. You may also take acetaminophen 
(Tylenol) as directed, but do not exceed 4000 mg in one day. 
Please note that Percocet and Vicodin have Tylenol as an active 
ingredient, so do not take these medications with additional 
Tylenol. 
3. An over-the-counter stool softener such as Colace (100mg 
twice daily) is recommended to prevent constipation while on 
narcotic pain medication.

WOUND CARE
1. Monitor the wounds for signs of infection, including redness 
that is spreading or increased drainge from wounds. Please call 
Dr. ___ if you experience any of these symptoms.

ACTIVITY
1. No strenuous activity until cleared by Dr. ___.
2. No showering until cleared by Dr. ___ sponge baths only.
 
Call the office IMMEDIATELY if you have any of the following:  
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s).  
2. A large amount of bleeding from the incision(s) or drain(s).  

3. Fever greater than 101.5 oF  
4. Severe pain NOT relieved by your medication.  
  
Return to the ER if:  
* If you are vomiting and cannot keep in fluids or your 
medications.  
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.  
* Any serious change in your symptoms, or any ___ symptoms that 
concern you. 
 
Followup Instructions:
___